US08278441B2
N-(3-((4aS,7aS)-2-Amino-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]thiazin-7a-yl)-4-fluorophenyl)-5-fluoropicolinamide
To a suspension of N-(3-((4aS,7aS)-2-Amino-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]thiazin-7a-yl)-4-fluorophenyl)-5-fluoropicolinamide hydrochloride (20 g, 47 mmol) in water (280 mL) at room temperature is added an aqueous solution of 2N sodium hydroxide (1.2 eq, 27 mL). The mixture is stirred for 30 minutes. The suspension is filtered and the solid is washed with water (3×100 mL). The solid is dried under vacuum at 45° C. to give the title compound as a white solid. The resulting solid is purified via the following two methods:

reactant | N-(3-((4aS,7aS)-2-Amino-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]thiazin-7a-yl)-4-fluorophenyl)-5-fluoropicolinamide hydrochloride | 47 mmol, 20 g | Cl.NC=1SC[C@H]2[C@@](N1)(COC2)C=2C=C(C=CC2F)NC(C2=NC=C(C=C2)F)=O
reactant | sodium hydroxide | 2N, 27 mL, 1.2 eq | [OH-].[Na+]
solvent | water | 280 mL | O | H2O
product | N-(3-((4aS,7aS)-2-Amino-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]thiazin-7a-yl)-4-fluorophenyl)-5-fluoropicolinamide | NC=1SC[C@H]2[C@@](N1)(COC2)C=2C=C(C=CC2F)NC(C2=NC=C(C=C2)F)=O | C18H16F2N4O2S
